US03954732
2,2,2-Trichloroethyl 2-(1-methyl-1H-tetrazol-5-yl)thiomethyl-2-methyl-6-[2-(1H-tetrazol-1-yl) acetamido]-penam-3-carboxylate (0.6 g) was dissolved in dimethylformamide (5 ml). To this solution were added acetic acid (0.9 ml) and zinc powder (0.8 g) under cooling at -15°C and the mixture was stirred for 1.5 hours at the same temperature. After the reaction, zinc powder was filtered off and the filtrate was poured into 5% hydrochloric acid (20 ml) and then extracted with ethyl acetate. The extract was washed with water, dried and the solvent was distilled off. The residue was crystallized from ether to give 2-(1-methyl-1H-tetrazol-5-yl)thiomethyl-2-methyl-6-[2-(1H-tetrazol-1-yl) acetamido]-penam-3-carboxylic acid (0.25 g), mp. 152° to 154°C.

reactant | 2,2,2-Trichloroethyl 2-(1-methyl-1H-tetrazol-5-yl)thiomethyl-2-methyl-6-[2-(1H-tetrazol-1-yl) acetamido]-penam-3-carboxylate | 0.6 g | CN1N=NN=C1SCC1(S[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CN2N=NN=C2)=O)=O)C | C15H17Cl3N10O4S2
reactant | acetic acid | 0.9 ml | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
catalyst | zinc | 0.8 g | [Zn] | Zn
product | 2-(1-methyl-1H-tetrazol-5-yl)thiomethyl-2-methyl-6-[2-(1H-tetrazol-1-yl) acetamido]-penam-3-carboxylic acid | 0.25 g | CN1N=NN=C1SCC1(S[C@H]2N(C1C(=O)O)C(C2NC(CN2N=NN=C2)=O)=O)C | C13H16N10O4S2
